US07638625B2
(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butane-1,4-dione-hydrobromide-pentahydrate (5c)
2.0 g (2.6 mmol) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butane-1,4-dione are dissolved in 20 ml isopropanol and at 50° C. combined with 0.6 ml hydrobromic acid (47% in water). The mixture is cooled to 4° C. within 30 minutes. The solid formed is filtered off, washed with 5 ml cold isopropanol and dried for 12 hours at 40° C.

reactant | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butane-1,4-dione | 2.6 mmol, 2.0 g | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C(F)(F)F)Cl | C36H47ClF3N7O3
reactant | hydrobromic acid | 0.6 ml | Br | BrH
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butane-1,4-dione-hydrobromide-pentahydrate | O.O.O.O.O.Br.NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2CCN(CC2)C)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C1C(F)(F)F)Cl | InChI=1S/C36H47ClF3N7O3.BrH.5H2O/c1-43-16-18-44(19-17-43)27-7-13-46(14-8-27)34(49)26(20-24-21-29(36(38,39)40)33(41)30(37)22-24)23-32(48)45-11-9-28(10-12-45)47-15-6-25-4-2-3-5-31(25)42-35(47)50;;;;;;/h2-5,21-22,26-28H,6-20,23,41H2,1H3,(H,42,50);1H;5*1H2/t26-;;;;;;/m0....../s1
